US09029487B2
Preparation of 3,6-bis-(2,2,4,4-tetramethylbutyl)-carbazole
ZnCl2 (36.8 g, 276 mmol) and carbazole (21.0 g, 126 mmol) are suspended in 600 mL nitromethane in a 1 qt jar in a glove-box. The t-octyl bromide (53.4 g, 276 mmol) is added dropwise to the gray-green suspension via addition funnel. The mixture turns into a black solution during the addition. The solution is allowed to stir at room temperature for two hours and then poured into 500 mL ice water. The product is extracted out of the mixture with 500 mL and 250 mL CH2Cl2. The combined organic portions are dried with MgSO4, filtered and rotovapped to yield a dark residue. This residue is taken up in 200 mL toluene, passed through a plug of silica, and washed through with 150 mL toluene. The yellow solution is reduced to a solid on the rotovap. This material is recrystallized from 100 mL hexane at −13° C. 27 g (55%) of white crystals are collected. The crystallization only moderately improved the purity of the product. 1H NMR (CDCl3): δ 8.02 (d, JH-H=1.6 Hz, 2H), 7.80 (br s, 1H, NH), 7.42 (dd, JH-H=8.6, 1.8 Hz, 2H), 7.29 (d, JH-H=8.5 Hz, 2H), 1.83 (s, 4H, CH2), 1.49 (s, 12H, CMe2), 0.72 (s, 18H, CMe3).

reactant | carbazole | 126 mmol, 21.0 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | t-octyl bromide | 276 mmol, 53.4 g | C(C)(C)(CC(C)(C)C)Br | C8H17Br
solvent | nitromethane | 600 mL | [N+](=O)([O-])C | CH3NO2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | ZnCl2 | 276 mmol, 36.8 g | [Cl-].[Cl-].[Zn+2]
product | 3,6-bis-(2,2,4,4-tetramethylbutyl)-carbazole | CC(CC=1C=CC=2NC3=CC=C(C=C3C2C1)CC(CC(C)C)(C)C)(CC(C)C)C | C28H41N
